US07129239B2
Preparation of 1-[9-(4-Chlorophenyl)-8-(2-chlorophenyl)-9H-purin-6-yl]-4-isoproplyaminopiperidine-4-carbonitrile (22A-1)
A suspension of 1-[9-(4-chlorophenyl)-8-(2-chlorophenyl)-9H-purin-6-yl]-piperidin-4-one 7A-96 (48 mg, 0.11 mmol) in methanol (0.4 ml) was cooled to 0° C. and then treated with 2-propylamine (15 μl, 0.15 mmol) and then concentrated aqueous HCl. After stirring 5 minutes, a solution of sodium cyanide (8.1 mg, 0.16 mmol) in water (0.4 ml) was added; the heterogeneous reaction was warmed to room temperature and then allowed to stir overnight. Tetrahydrofuran (0.4 ml) was then added to solubilize all reactants. Additional sodium cyanide (8 mg, 0.16 mmol) and 2-propylamine (3 drops) were added and stirred overnight. The reaction was filtered and then concentrated under reduced pressure to give title compound 22A-1 (27 mg, 48%) as a colorless solid: +ESI MS (M+1) 506.1; 1H NMR (400 MHz, CD2Cl2) δ 8.32 (s, 1H), 7.52 (d, J=7.9 Hz, 1H), 7.45–7.33 (m, 5H), 7.21 (d, J=8.7 Hz, 2H), 5.50 (v br s, 2H), 3.88 (v br s, 2H), 3.18 (septuplet, J=6.0 Hz, 1H), 2.16 (m, 2H), 1.82 (ddd, J=13.3, 10.4, 3.7 Hz, 2H), 1.16 (d, J=6.2 Hz, 6H).

reactant | 1-[9-(4-chlorophenyl)-8-(2-chlorophenyl)-9H-purin-6-yl]-piperidin-4-one | ClC1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1C1=C(C=CC=C1)Cl)N1CCC(CC1)=O | C22H17Cl2N5O
reactant | 2-propylamine | 0.15 mmol, 15 μl | CC(C)N | C3H9N
reactant | HCl | Cl | ClH
reactant | sodium cyanide | 0.16 mmol, 8.1 mg | [C-]#N.[Na+]
reactant | sodium cyanide | 0.16 mmol, 8 mg | [C-]#N.[Na+]
solvent | methanol | 0.4 ml | CO | CH4O
solvent | water | 0.4 ml | O | H2O
catalyst | 2-propylamine | 3 drops | CC(C)N | C3H9N
solvent | Tetrahydrofuran | 0.4 ml | O1CCCC1 | C4H8O
product | 1-[9-(4-Chlorophenyl)-8-(2-chlorophenyl)-9H-purin-6-yl]-4-isoproplyaminopiperidine-4-carbonitrile | ClC1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1C1=C(C=CC=C1)Cl)N1CCC(CC1)(C#N)NC(C)C | C26H25Cl2N7
